US03993683
(2'-Fluoro-4-biphenylyl)-methylsulfinyl-acetic acid methyl ester
A solution of 11.5 gm (39.3 millimols) of (2'-fluoro-4-biphenylyl)-methyl-sulfinyl-acetic acid in 60 ml of dimethyl sulfoxide, was admixed with 8.2 gm of dry potassium carbonate and 8.4 gm of methyl iodide, and the mixture was stirred at room temperature for 3 hours. Thereafter, water was added, whereupon the reaction product crystallized out and was suction-filtered off, dried and recrystallized from carbon tetrachloride and isopropanol Yield: 3.8 gm (32% of theory); m.p. 79°-80° C

reactant | (2'-fluoro-4-biphenylyl)-methyl-sulfinyl-acetic acid | 39.3 millimols, 11.5 gm | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)O)S(=O)C | C15H13FO3S
reactant | potassium carbonate | 8.2 gm | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 8.4 gm | CI | CH3I
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | (2'-Fluoro-4-biphenylyl)-methylsulfinyl-acetic acid methyl ester | COC(C(S(=O)C)C1=CC=C(C=C1)C1=C(C=CC=C1)F)=O | C16H15FO3S
